US07166607B2
i) 2-methyl-3-[(4-methylphenyl)thio]-6-(methylsulfonyl)-1H-indole-1-acetic acid, ethyl ester
To a stirred solution of sodium hydride (45 mg of 60% dispersion in mineral oil) in dry tetrahydrofuran (10 ml) was added 3-[(4-chlorophenyl)thio]-2-methyl-6-(methylsulfonyl)-1H-indole (160 mg) (the product of Example 20 step i). After 30 minutes the reaction was treated with ethyl bromoacetate (78 μl) and stirring continued for 1 hour. Reaction was quenched with ethanol, the solvent was removed in vacuo, the residue redissolved in ethyl acetate, washed with water, dried (MgSO4), and evaporated in vacuo and the residue purified by flash column chromatography eluting with 30% ethyl acetate and iso-hexane mixture. The sub-title compound was obtained as a white solid (180 mg).

reactant | sodium hydride | 45 mg | [H-].[Na+]
reactant | 3-[(4-chlorophenyl)thio]-2-methyl-6-(methylsulfonyl)-1H-indole | 160 mg | ClC1=CC=C(C=C1)SC1=C(NC2=CC(=CC=C12)S(=O)(=O)C)C | C16H14ClNO2S2
reactant | ethyl bromoacetate | 78 μl | BrCC(=O)OCC | C4H7BrO2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-methyl-3-[(4-methylphenyl)thio]-6-(methylsulfonyl)-1H-indole-1-acetic acid, ethyl ester | CC=1N(C2=CC(=CC=C2C1SC1=CC=C(C=C1)C)S(=O)(=O)C)CC(=O)OCC | C21H23NO4S2
